US07015234B2
4-(4-Trifluoromethylphenoxy)piperidine-1-carboxylic Acid Tert-butyl Ester
A stirred solution of 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester (134.8 g) in N,N-dimethylformamide (850 m) was cooled in an ice bath under a nitrogen atmosphere. Potassium tert butoxide (75.2 g) was added in portions such that the temperature did not exceed 22° C. and the resulting mixture was maintained at 0° C. for a further 1.5 hours when 4-fluorobenzotrifluoride (100 g) was added dropwise over 15 minutes. The reaction mixture was allowed to warm to room temperature and stirred overnight. Water (200 ml) was added and the mixture was extracted with tert butyl methyl ether (1×400 ml, 1×300 ml, 1×200 ml). The combined organic extracts were washed with water (2×400 ml), brine (200 ml) and then dried over magnesium sulphate and evaporated in vacuo to leave the title compound as an off-white/pale yellow solid (206.4 g)

reactant | 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester | 134.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | Potassium tert butoxide | 75.2 g | CC(C)([O-])C.[K+]
reactant | 4-fluorobenzotrifluoride | 100 g | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | Water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-Trifluoromethylphenoxy)piperidine-1-carboxylic Acid Tert-butyl Ester | 206.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C(F)(F)F | C17H22F3NO3
